US06844351B1
A. Butyl-(6-chloro-2-methyl-5-ethyl-pyrimidin-4-yl)ethyl-amine
A mixture of 2-methyl-5-ethyl-4,6-dichloro-pyrimidine (1.009 g, 5.28 mmol) in 5 ml of acetonitrile was treated with triethylamine (0.571 g, 5.65 mmol) and N-butyl-ethyl-amine (0.540 g, 5.31 mmol) and heated at reflux overnight. The mixture was diluted with water and dilute hydrogen chloride, and extracted with ethyl acetate. The organic layer was neutralized with saturated potassium carbonate and washed with brine, dried and concentrated to give 1.193 g of yellow oil which was purified through silica gel column chromatography to give 1.157 g (86%) of title compound as a yellow oil. 1H NMR (CDCl3) δ 0.90 (t, 3H), 1.13 (t, 3H), 1.18 (t, 3H), 1.1-1.33 (m, 2H), 1.4-1.6 (m, 2h), 2.41 (s, 3H), 2.62 (q, 2H), 3.25-3.48 (m, 4H) ppm.

reactant | 2-methyl-5-ethyl-4,6-dichloro-pyrimidine | 5.28 mmol, 1.009 g | CC1=NC(=C(C(=N1)Cl)CC)Cl | C7H8Cl2N2
reactant | triethylamine | 5.65 mmol, 0.571 g | C(C)N(CC)CC | C6H15N
reactant | N-butyl-ethyl-amine | 5.31 mmol, 0.540 g | C(CCC)NCC | C6H15N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | hydrogen chloride | Cl | ClH
product | Butyl-(6-chloro-2-methyl-5-ethyl-pyrimidin-4-yl)ethyl-amine | 1.193 g | C(CCC)NCCC1=NC(=NC(=C1CC)Cl)C | C13H22ClN3
